US05705529
Preparation of 2-benzyloxy-5-butoxybenzoic acid
A suspension containing 1.9 g (9 mmol) of 5-butoxy-2-hydroxybenzoic acid, 3.85 g (30 mmol) of benzyl chloride and 5 g (36 mmol) of anhydrous potassium carbonate in 18 ml of anhydrous ethanol was boiled under reflux for 20 hours while stirring. The reaction mixture was cooled to room temperature and after adding 20 ml of water and thoroughly shaking, the three phases formed were separated. The medium phase was boiled under reflux with 1.1 g (27.5 mmol) of sodium hydroxide dissolved in 7 ml of ethanol and 5 ml of water for 2.5 hours under stirring. After cooling down the solution was mixed with 15 ml of water under cooling by ice, the pH value of the mixture was adjusted to 4 by adding 5M hydrochloric acid and stirred for 1 hour. After extracting the product with ethyl acetate and drying, the solution was evaporated to dryness under reduced pressure to give 1.5 g (55%) ot the aimed product, m.p.: 79°-82° C.

reactant | 5-butoxy-2-hydroxybenzoic acid | 9 mmol, 1.9 g | C(CCC)OC=1C=CC(=C(C(=O)O)C1)O | C11H14O4
reactant | benzyl chloride | 30 mmol, 3.85 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 36 mmol, 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 27.5 mmol, 1.1 g | [OH-].[Na+]
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | ethanol | 18 ml | C(C)O | C2H6O
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 2-benzyloxy-5-butoxybenzoic acid | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)OCCCC | C18H20O4
